2129-11-25 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Unable to wean Neo o/n
   S: Feeling well.  Ready to go home.  No CP, SOB, confusion.
   Allergies:
   Niacin
   "severe flushin
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-11-24**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-11-25**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 53 (53 - 71) bpm
   BP: 97/52(63) {80/40(49) - 121/66(79)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    915 mL
                                                                  1,076 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    675 mL
                                                                    836 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                    365 mL
   Urine:
                                                                    480 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    435 mL
                                                                    711 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   GENERAL: WDWN male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple, no JVD. Carotid bruits b/l.
   CARDIAC: RRR, normal S1, S2. Soft systolic murmur at USB. No thrills,
   lifts. No S3 or S4.  JVP @ 6cm
   LUNGS: Enlarged A-P diameter, resps unlabored, no accessory muscle use.
   CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND, +BS.
   EXTREMITIES: No c/c/e. Inguinal dressing C,D,I. No hematomas or femoral
   bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Small cherry
   hemangiomas on chest.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Neuro: CN 2-12 intact. Strength: [**5-16**] proximal and distal muscles of b/l
   UEs. Distal LE strength 5/5. Sensory exam to light touch equal
   bilaterally.
   Labs / Radiology
   260 K/uL
   9.9 g/dL
   121 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   11 mg/dL
   102 mEq/L
   132 mEq/L
   27.6 %
   10.8 K/uL
        [image002.jpg]
                            [**2129-11-24**]  06:39 PM
                            [**2129-11-25**]  02:57 AM
   WBC
   10.8
   Hct
   27.6
   Plt
   296
   260
   Cr
   0.6
   Glucose
   121
   Other labs: PT / PTT / INR:13.5/36.7/1.2, CK / CKMB / Troponin-T:59//,
   Mg++:1.7 mg/dL
   Assessment and Plan
   71 yo male with h/o CAD s/p DES to RCA, R ICA stent, L ICA stenosis s/p
   L ICA stent.
   .
   #Carotid Stenosis-  now s/p PCI, pt tolerated procedure well. Requiring
   Phenylephrine post op due to SBP in 70s.  Thought to be [**2-12**] vagal
   stimulation from stent.
   -q4 neuro checks
   -Maintain SBP 100-160 using Phenylephrine.  Will attempt to wean as
   tolerated.  Encourage ambulation.
   -asa, plavix, statin
   - will check lipids
   -Neuro has evaluated pt, no neurologic deficits appreciated post
   procedure.
   .
   # CAD: Continue aspirin, plavix, statin. Holding BB, ACE pending BP.
   .
   # RHYTHM: Sinus rhythm, telemetry
   .
   # BPH- Hold flomax pending BP, continue finasteride
   .
   # GERD- Continue home PPI
   .
   FEN: cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   CODE: FULL
   DISPO: CCU/CVICU
   CONTACT: [**Name (NI) 2229**] [**Name (NI) 2627**] (wife):
           1. IV access: Peripheral line Order date: [**11-24**] @ [**2048**]
   9. Heparin 5000 UNIT SC TID  Order date: [**11-24**] @ [**2048**]
   2. 250 mL NS Bolus 250 ml Over 15 mins Order date: [**11-25**] @ 1117
   10. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**11-24**] @ [**2023**]
   3. 250 mL NS Bolus 250 ml Over 15 mins Order date: [**11-25**] @ 1117
   11. Phenylephrine 0.5-5 mcg/kg/min IV DRIP TITRATE TO SBP 100-160
   Order date: [**11-24**] @ [**2048**]
   4. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**11-24**] @ 2313
   12. Potassium Chloride 60 mEq PO ONCE Duration: 1 Doses Order date:
   [**11-25**] @ 0929
   5. Aspirin EC 325 mg PO DAILY  Order date: [**11-24**] @ [**2048**]
   13. Senna 1 TAB PO BID:PRN  Order date: [**11-24**] @ [**2048**]
   6. Clopidogrel 75 mg PO DAILY
   for the recommended duration  Order date: [**11-24**] @ [**2048**]
   14. Simvastatin 80 mg PO DAILY  Order date: [**11-24**] @ [**2048**]
   7. Docusate Sodium 100 mg PO BID:PRN  Order date: [**11-24**] @ [**2048**]
   15. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**11-24**] @ [**2048**]
   8. Finasteride 5 mg PO DAILY  Order date: [**11-24**] @ [**2048**]
   16. traZODONE 25 mg PO HS:PRN  Order date: [**11-25**] @ 0034

2129-11-26 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Niacin
   "severe flushin
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-11-25**] 02:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-11-26**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 69 (51 - 82) bpm
   BP: 106/55(66) {87/37(49) - 126/83(88)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,220 mL
                                                                     64 mL
   PO:
                                                                  1,920 mL
             TF:
   IVF:
                                                                  2,300 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  2,990 mL
                                                                    950 mL
   Urine:
                                                                  2,990 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,230 mL
                                                                   -886 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: WDWN male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple, no JVD. Carotid bruits b/l.
   CARDIAC: RRR, normal S1, S2. Soft systolic murmur at USB. No thrills,
   lifts. No S3 or S4.  JVP @ 6cm
   LUNGS: Enlarged A-P diameter, resps unlabored, no accessory muscle use.
   CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND, +BS.
   EXTREMITIES: No c/c/e. Inguinal dressing C,D,I. No hematomas or femoral
   bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Small cherry
   hemangiomas on chest.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Neuro: CN 2-12 intact. Strength: [**5-16**] proximal and distal muscles of b/l
   UEs. Distal LE strength 5/5. Sensory exam to light touch equal
   bilaterally.
   Labs / Radiology
   260 K/uL
   9.9 g/dL
   121 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   11 mg/dL
   102 mEq/L
   132 mEq/L
   27.6 %
   10.8 K/uL
        [image002.jpg]
                            [**2129-11-24**]  06:39 PM
                            [**2129-11-25**]  02:57 AM
   WBC
   10.8
   Hct
   27.6
   Plt
   296
   260
   Cr
   0.6
   Glucose
   121
   Other labs: PT / PTT / INR:13.5/36.7/1.2, CK / CKMB / Troponin-T:59//,
   Mg++:1.7 mg/dL
   Assessment and Plan
   71 yo male with h/o CAD s/p DES to RCA, R ICA stent, L ICA stenosis s/p
   L ICA stent.
   .
   #Carotid Stenosis-  now s/p PCI, pt tolerated procedure well. Requiring
   Phenylephrine post op due to SBP in 70s.  Thought to be [**2-12**] vagal
   stimulation from stent.
   -q4 neuro checks
   -Maintain SBP 100-160 using Phenylephrine.  Will attempt to wean as
   tolerated.  Encourage ambulation.
   -asa, plavix, statin
   - will check lipids
   -Neuro has evaluated pt, no neurologic deficits appreciated post
   procedure.
   .
   # CAD: Continue aspirin, plavix, statin. Holding BB, ACE pending BP.
   .
   # RHYTHM: Sinus rhythm, telemetry
   .
   # BPH- Hold flomax pending BP, continue finasteride
   .
   # GERD- Continue home PPI
   .
   FEN: cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   CODE: FULL
   DISPO: CCU/CVICU
   CONTACT: [**Name (NI) 2229**] [**Name (NI) 2627**] (wife):
           1. IV access: Peripheral line Order date: [**11-24**] @ [**2048**]
   10. Heparin 5000 UNIT SC TID  Order date: [**11-24**] @ [**2048**]
   2. 250 mL NS Bolus 250 ml Over 15 mins Order date: [**11-25**] @ 1117
   11. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**11-24**] @ [**2023**]
   3. 250 mL NS Bolus 250 ml Over 15 mins Order date: [**11-25**] @ 1117
   12. Phenylephrine 0.5-5 mcg/kg/min IV DRIP TITRATE TO SBP 100-160
   Order date: [**11-24**] @ [**2048**]
   4. 250 mL NS Bolus 250 ml Over 15 mins Order date: [**11-25**] @ 1806
   13. Potassium Chloride 60 mEq PO ONCE Duration: 1 Doses Order date:
   [**11-25**] @ 0929
   5. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**11-24**] @ 2313
   14. Senna 1 TAB PO BID:PRN  Order date: [**11-24**] @ [**2048**]
   6. Aspirin EC 325 mg PO DAILY  Order date: [**11-24**] @ [**2048**]
   15. Simvastatin 80 mg PO DAILY  Order date: [**11-24**] @ [**2048**]
   7. Clopidogrel 75 mg PO DAILY
   for the recommended duration  Order date: [**11-24**] @ [**2048**]
   16. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**11-24**] @ [**2048**]
   8. Docusate Sodium 100 mg PO BID:PRN  Order date: [**11-24**] @ [**2048**]
   17. traZODONE 25 mg PO HS:PRN  Order date: [**11-25**] @ 0034
   9. Finasteride 5 mg PO DAILY  Order date: [**11-24**] @ [**2048**]